US05908843
A solution of 1 g of benzyl 4-(4-(4-(3-CBZ-guanidino)benzoyl)piperazin-1-yl)butyrate (FAB 558; obtainable by condensing 4-(3-CBZ-guanidino)benzoic acid with benzyl 4-(piperazin-1-yl)butyrate) in a mixture of 38 ml of methanol, 6 ml of water and 6 ml of acetic acid is hydrogenated on 0.6 g of 5% Pd/C at 20° and 1 bar until the uptake of H2 has ceased. It is filtered, the filtrate is evaporated and the residue is recrystallized from ethyl acetate to give 4-(4-(4-guanidinobenzoyl)piperazin-1-yl)butyric acid, FAB 334.

reactant | benzyl 4-(4-(4-(3-CBZ-guanidino)benzoyl)piperazin-1-yl)butyrate | 1 g | C(=O)(OCC1=CC=CC=C1)NC(NC1=CC=C(C(=O)N2CCN(CC2)CCCC(=O)OCC2=CC=CC=C2)C=C1)=N | C31H35N5O5
reactant | water | 6 ml | O | H2O
reactant | acetic acid | 6 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 38 ml | CO | CH4O
catalyst | Pd/C | 0.6 g | [Pd] | Pd
product | 4-(4-(4-guanidinobenzoyl)piperazin-1-yl)butyric acid | N(C(=N)N)C1=CC=C(C(=O)N2CCN(CC2)CCCC(=O)O)C=C1 | C16H23N5O3
